US09422232B2
To a solution of N-(3-hydroxypropyl)trifluoroacetamide (1.6 g, 9.3 mmol) in anhydroud DCM (10 mL) cooled to 0° C. was added a solution of Dess-Martin periodinane (30 mL of 15 wt % in DCM; 14 mmol). Stirring was continued at 0° C. for 10 min, then the mixture was allowed to warm to room temperature and stirring was continued for 2 h. The mixture was poured onto a biphasic mixture of saturated aqueous NaHCO3 (60 mL) and Et2O (60 mL) and stirred vigorously for 20 min. The forming precipitate was eliminated by filtration and the layers separated. The aqueous layer was extracted with Et2O. The combined organic layers were washed with brine, dried (MgSO4), filtrated, and evaporated. The product was purified by column chromatography (Hex:EtOAc 3:2) to provide N-(3-oxopropyl)trifluoroacetamide as a viscous liquid in a yield of 0.82 g (52%). The product decomposes at room temperature and was used within 24 h of preparation. 1H-NMR (500 MHz, CDCl3): δ=2.84 ppm (t, J=6.0 Hz, 2H), 3.64 ppm (dt, J=6.0, 6.0 Hz, 2H), 6.98 ppm (bs, 1H), 9.81 ppm (s, 1H); 13C-NMR (500 MHz, CDCl3): δ=33.36, 42.58, 115.74 ppm (q, J=1144 Hz), 157.42 ppm (q, J=146.5 Hz), 200.85 ppm.

reactant | N-(3-hydroxypropyl)trifluoroacetamide | 9.3 mmol, 1.6 g | OCCCNC(C(F)(F)F)=O | C5H8F3NO2
reactant | Dess-Martin periodinane | 14 mmol, 30 mL | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
reactant | Et2O | 60 mL | CCOCC | C4H10O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-oxopropyl)trifluoroacetamide | O=CCCNC(C(F)(F)F)=O | C5H6F3NO2
